US08012979B2
i) 2,2,2-Trifluoro-1-(4-phenyl-piperidin-1-yl)-ethanone
Trifluoroacetic anhydride (70 mL) was added dropwise to 4-phenyl piperidine (25 g) at 0° C. with stirring under nitrogen. The mixture was then heated to reflux for 4 hours before cooling to room temperature and stirring for a further 48 hours. The reaction was concentrated in vacuo, azeotroping with toluene and redissolved ethyl acetate before washing with water and brine. The organic layer was dried using magnesium sulfate and concentrated to give the sub-title compound (40 g).

reactant | 4-phenyl piperidine | 25 g | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | Trifluoroacetic anhydride | 70 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
product | 2,2,2-Trifluoro-1-(4-phenyl-piperidin-1-yl)-ethanone | 40 g | FC(C(=O)N1CCC(CC1)C1=CC=CC=C1)(F)F | C13H14F3NO
